US07977482B2
Step 2: Synthesis of 2-[{4-[(E)-{4-chloro-5-[(1,3-dioxo-1,3-dihydro-2H-inden-2-ylidene)methyl]-1,3-thiazol-2-yl}diazenyl]phenyl}(ethyl)amino]ethyl Hydrogen Sulfate
0.5 g (1.07 mmol) 2-{[4-chloro-2-((E)-{4-[ethyl(2-hydroxyethyl)amino]-phenyl}-diazenyl)-1,3-thiazol-5-yl]methylidene}-1H-indene-1,3(2H)-dione were dissolved in 50 ml THF and cooled to 0° C. Then 0.19 g (1.60 mmol) chlorosulfonic acid were added slowly drop by drop with stirring. After the addition was completed, the reaction mixture was heated under reflux for 4 hours, allowed to cool to room temperature and stirred overnight. After further cooling in an ice bath the formed precipitate was filtered off, washed with a little cold THF and dried at 40° C. in vacuum.

reactant | 2-{[4-chloro-2-((E)-{4-[ethyl(2-hydroxyethyl)amino]-phenyl}-diazenyl)-1,3-thiazol-5-yl]methylidene}-1H-indene-1,3(2H)-dione | 1.07 mmol, 0.5 g | ClC=1N=C(SC1C=C1C(C2=CC=CC=C2C1=O)=O)\N=N\C1=CC=C(C=C1)N(CCO)CC | C23H19ClN4O3S
reactant | chlorosulfonic acid | 1.60 mmol, 0.19 g | ClS(=O)(=O)O | ClHO3S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-[{4-[(E)-{4-chloro-5-[(1,3-dioxo-1,3-dihydro-2H-inden-2-ylidene)methyl]-1,3-thiazol-2-yl}diazenyl]phenyl}(ethyl)amino]ethyl Hydrogen Sulfate | S(=O)(=O)(OCCN(CC)C1=CC=C(C=C1)\N=N\C=1SC(=C(N1)Cl)C=C1C(C2=CC=CC=C2C1=O)=O)O | C23H19ClN4O6S2
